US07625938B2
tert-Butyl N-(4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoyl)-β-alaninate (2.05 g, 4.06 mmol), TEA (1.7 ml, 12 mmol) were dissolved in THF (35 ml) at −78° C. Triflic anhydride (1.1 ml, 6.2 mmol) was added. The cooling bath was removed and the reaction mixture was stirred for 1 hr. The reaction was quenched by adding ethyl acetate, water. The organic layer was washed with 0.5 N HCl 2×, brine 2×, and dried over Na2SO4. Evaporation of solvent and flash column chromatography (SiO2, 0-10% ethyl acetate in DCM gradient) gave tert-butyl N-{4-[1-(3-(3,5-dichlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoyl}-β-alaninate as a colorless dry film. NMR (500 MHz, CDCl3) δ: 1.45 (s, 9H); 1.97 (d, J=7.1 Hz, 3H); 2.53 (t, J=5.9 Hz, 2H); 3.67 (q, J=5.9 Hz, 2H); 5.54 (q, J=7.1 Hz, 1H); 6.43 (s, 1H); 6.86 (t, J=6.2 Hz, 1H); 7.33 (t, J=2.0 Hz, 1H); 7.36 (d, J=8.4 Hz, 2H). 7.67 (d, J=2.0 Hz, 2H); 7.74 (d, J=8.4 Hz, 2H). MS C26H26Cl2F3N3O6S Cald: 635.09; Obsd (M+Na): 657.89.

reactant | tert-Butyl N-(4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoyl)-β-alaninate | 4.06 mmol, 2.05 g | ClC=1C=C(C=C(C1)Cl)C1=NN(C(C1)=O)C(C)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C25H27Cl2N3O4
reactant | Triflic anhydride | 6.2 mmol, 1.1 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | tert-butyl N-{4-[1-(3-(3,5-dichlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoyl}-β-alaninate | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)OS(=O)(=O)C(F)(F)F)C(C)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C26H26Cl2F3N3O6S
